US04748212
In an autoclave, with the atmosphere therein replaced with argon, were placed 75 g of 1,3-butadiene, 25 g of sytrene, 70 g of isopropyl alcohol, and 10 g of 60% hydrogen peroxide, followed by polymerization reaction at 90° C. for 5 hours. Thus there was obtained a butadiene-styrene copolymer.

reactant | 1,3-butadiene | 75 g | C=CC=C | C4H6
reactant | hydrogen peroxide | 10 g | OO | H2O2
solvent | isopropyl alcohol | 70 g | C(C)(C)O | C3H8O
product | butadiene-styrene copolymer | C=CC=C.C=CC1=CC=CC=C1 | InChI=1S/C8H8.C4H6/c1-2-8-6-4-3-5-7-8;1-3-4-2/h2-7H,1H2;3-4H,1-2H2
